US05342941
To a solution of 1-methyl-2,3-bis(acetoxymethyl)-6,7-dimethoxynaphthalene (5.0 g) in carbon tetrachloride (100 ml) are added N-bromosuccinimide (2.8 g) and benzoyl peroxide (150 mg), and the mixture is refluxed for 2 hours. The mixture is allowed to cool, and the insoluble materials are separated by filtration, and the filtrate is concentrated under reduced pressure to give 1-bromomethyl-2,3-bis(acetoxymethyl)-6,7-dimethoxynaphthalene (5.1 g) as crystal.

reactant | 1-methyl-2,3-bis(acetoxymethyl)-6,7-dimethoxynaphthalene | 5.0 g | CC1=C(C(=CC2=CC(=C(C=C12)OC)OC)COC(C)=O)COC(C)=O | C19H22O6
reactant | N-bromosuccinimide | 2.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-bromomethyl-2,3-bis(acetoxymethyl)-6,7-dimethoxynaphthalene | 5.1 g, Yield: 83% | BrCC1=C(C(=CC2=CC(=C(C=C12)OC)OC)COC(C)=O)COC(C)=O | C19H21BrO6
